US05516774
4,5-Dihydro-6H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine
A mixture of 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-thione (0.8 g) and 0.80 g of N-formylhydrazine in 8 ml of n-butanol is stirred and refluxed for 18 hours and the solvent removed under vacuum. Ice water is added to the residual solid and the mixture filtered to give 0.312 g of a gray solid, m.p. 162°-165° C.

reactant | 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-thione | 0.8 g | N1C(CCNC2=C1C=CC=C2)=S | C9H10N2S
reactant | N-formylhydrazine | 0.80 g | C(=O)NN | CH4N2O
solvent | n-butanol | 8 ml | C(CCC)O | C4H10O
product | 4,5-Dihydro-6H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine | 0.312 g | C1=NN=C2N1C1=C(NCC2)C=CC=C1 | C10H10N4
